US07053089B2
EXAMPLE 106 was prepared from 4-(3-hydroxy-pyridin-4-ylcarbamoyl)-piperidine-1-carboxylic acid benzyl ester (which was prepared by EDC coupling of 4-amino-pyridin-3-ol and N-benzyloxycarbonyl piperidine-4-carboxylic acid) by borane-THF reduction overnight at room temperature. The reaction was quenched by slow addition of 1N HCl until pH=2, then basified to pH=10 with 10 N NaOH. Extraction with chloroform yielded a crude product which was purified by preparative chromatography, eluting with 90:10 chloroform saturated with ammonia:methanol to give 4-[(3-hydroxy-pyridin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester: MS (m+1)=342.4.

reactant | 4-(3-hydroxy-pyridin-4-ylcarbamoyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NC1=C(C=NC=C1)O)=O | C19H21N3O4
reactant | borane THF | B.C1CCOC1
product | 4-[(3-hydroxy-pyridin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=C(C=NC=C1)O | C19H23N3O3
